US07220856B2
Preparation of N-(3-Chloro-4-methoxyphenyl)-4-(7-chloro-4-quinolinyl)-1-piperazinecarboxamide
As described for example 78, 4-methoxy-3-chloro-aniline, p-nitrophenyl chloroformate, diisopropylethyl amine, and 7-chloro-4-piperazinylquinoline are reacted to afford the product. LC-MS: 431 (M++1). 1H NMR (CDCl3) δ 8.78 (d, 1H), 8.05 (s, 1H), 7.95 (d, 1H), 7.50 (d, 1H), 7.45 (s, 1H), 7.22 (d, 1H), 6.90 (m, 2H), 6.38 (s, 1H), 3.85 (s, 3H), 3.80 (m, 4H), 3.25 (m, 4H).

reactant | 4-methoxy-3-chloro-aniline | COC1=C(C=C(N)C=C1)Cl | C7H8ClNO
reactant | p-nitrophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | diisopropylethyl amine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 7-chloro-4-piperazinylquinoline | ClC1=CC=C2C(=CC=NC2=C1)N1CCNCC1 | C13H14ClN3
product | N-(3-Chloro-4-methoxyphenyl)-4-(7-chloro-4-quinolinyl)-1-piperazinecarboxamide | ClC=1C=C(C=CC1OC)NC(=O)N1CCN(CC1)C1=CC=NC2=CC(=CC=C12)Cl | C21H20Cl2N4O2
